US08039455B2
A solution of 2.17 g (9.18 mmol) of 5-allyloxy-isophthalic acid monomethyl ester in 9.2 ml of thionyl chloride is heated to reflux for 1 h. Excess thionyl chloride is removed under reduced pressure to yield 3-allyloxy-5-chlorocarbonyl-benzoic acid methyl ester in the form of a color-less oil, which is used without further purification. To a solution of 2.36 g (9.18 mmol) of 3-allyloxy-5-chlorocarbonyl-benzoic acid methyl ester in 9 ml of DCM 27.6 ml of a 1 M solution of dimethylamine in THF (3 eq.) are added at 0° C. The mixture is stirred at rt for 2 h. 100 ml of a half-saturated aq ammonium chloride solution are added. The mixture is extracted with TBME (2×75 ml), and the combined organic layers are washed with 50 ml of water, dried over sodium sulfate and evaporated. The residue is purified by chromatography on silica gel (EtOAc) to give the product as a colorless oil.

reactant | 5-allyloxy-isophthalic acid monomethyl ester | 9.18 mmol, 2.17 g | COC(C1=CC(C(=O)O)=CC(=C1)OCC=C)=O | C12H12O5
reactant | thionyl chloride | 9.2 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-allyloxy-5-chlorocarbonyl-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C(=O)Cl)OCC=C)=O | C12H11ClO4
